US07741327B2
A solution of (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (0.70 g, 1.39 mmol) in methanol (13.9 mL) at 25° C. was treated with p-toluenesulfonic acid monohydrate (40 mg, 0.20 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was diluted with dichloromethane (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×150 mL) and a saturated aqueous sodium chloride solution (1×150 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 1-10% methanol/dichloromethane) afforded (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (0.49 g, 77%) as an off-white solid: HR-ES-MS m/z calculated for C23H29N4O5F [M+H]+ 461.2195, observed 461.2194; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.88 (d, J=6.3 Hz, 3H), 0.92 (d, J=6.3 Hz, 3H), 1.32-1.48 (m, 1H), 1.48-1.63 (m, 1H), 1.63-1.82 (m, 1H), 2.29 (s, 3H), 3.17-3.30 (m, 2H), 3.68-3.79 (m, 1H), 3.79-3.91 (m, 1H), 4.07 (dd, J=13.4, 3.8 Hz, 1H), 4.18 (d, J=18.4 Hz, 1H), 4.57 (d, J=18.4 Hz, 1H), 4.69 (t, J=5.6 Hz, 1H), 4.81-4.89 (m, 2H), 4.92 (d, J=5.4 Hz, 1H), 6.39 (d, J=2.0 Hz, 1H), 7.08-7.18 (m, 1H), 7.24-7.35 (m, 2H), 7.51 (d, J=2.0 Hz, 1H), 10.75 (s, 1H).

reactant | (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 1.39 mmol, 0.70 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC(=C1)C)F)=O)=O)C | C26H33FN4O5
reactant | p-toluenesulfonic acid monohydrate | 0.20 mmol, 40 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 13.9 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 0.49 g, 77% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC(=C1)C)F)=O)=O)CO | C23H29FN4O5
